US05110869
A. Preparation of Bis(o-Nitrophenyl)terephthalate (DNPT)
A 300-ml r.b. flask, equipped with a magnetic stirring bar was charged with 7.85 g sodium hydroxide (Fisher, 0.197 moles) in 75 ml of deionized water and then, to the stirred solution, 27.40 g of P-nitrophenol (Aldrich, 98%, 0.197 moles) was added. The solution turned orange and a considerable amount of yellow solid was present. A solution of 20.04 g of terephthaloyl chloride (Aldrich, 97%, 0.0987 moles assuming 100% purity) in methylene chloride was dripped into the flask from a dropping funnel. The flask was stirred another 15 min and the mixture filtered through a Whatman's #1 filter paper disk on a Buchner funnel. The filtrate was almost clear and the solid on the filter was washed with a few portions of water in the funnel and with two small portions of acetone. The solid was dried by briefly drawing air through it in a vacuum funnel and then, broken into finer pieces, in a 65° C. vacuum oven. The crude product weighed 36.1 g (theory, 40.2 g) and melted at 228-243° C.

reactant | sodium hydroxide | 0.197 moles, 7.85 g | [OH-].[Na+]
reactant | P-nitrophenol | 0.197 moles, 27.40 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | terephthaloyl chloride | 0.0987 moles, 20.04 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | water | 75 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Bis(o-Nitrophenyl)terephthalate | [N+](=O)([O-])C1=C(C=CC=C1)OC(C1=CC=C(C(=O)OC2=C(C=CC=C2)[N+](=O)[O-])C=C1)=O | C20H12N2O8
